* C:\Users\Hayden\Desktop\AEC\Final\Test Bench\test-bench-1.asc
* Generated by LTspice 26.0.1 for Windows.
R3 N006 Vout 0.5
V1 p3p5 0 3.5
V2 N011 0 0
R2 N006 N008 10k
R1 N008 0 10k
X§U2 Setpoint N002 p3p5 m3p5 N010 ADA4661-2 ;§pnba In+)In-)V+)V-)OUT
V3 0 m3p5 3.5
V5 p2p5 0 2.5
X§U4 N005 N004 N002 N001 p2p5 m2p5 ADG719 ;§pnba IN)S1)D)S2)Vdd)GND
Vmode N005 m2p5 5
Vset N012 0 PULSE(-1.0 1.0 10u 10u 10u 1m 2m) AC 1 0
RL Vout N011 50
CL Vout 0 200p Rser=0.25 Lser=1n
R5 N007 NC_01 20k
S1 N007 N002 N003 0 RESET
Vreset N003 0 PULSE(1.0 -1.0 5u 1u 1u 1 2)
V6 0 m2p5 2.5
E1 N001 0 N006 Vout 20
R4 N006 N009 4.03
Vos Setpoint N012 0
X§U1 N009 N008 N010 m3p5 p3p5 AD8018 ;§pnba OUT)In-)In+)V-)V+
.ac dec 10 20 20Meg
* .savebias tran25
* .op
* .tran 0 2m 0 0.1u startup
.model RESET SW(Ron=1 Roff=10Meg Vt=0 Vh=-.5 Lser=10n Vser=0)
* For Voltage out:\n     mode Vmode = 0\nFor Current out:\n     mode Vmode = 5
* Ideal current to voltage\nconverter
* .loadbias tran25
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Hayden\AppData\Local\LTspice\lib\sym\OpAmps\AD8018.asy)
.lib AD8018.sub
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\Hayden\AppData\Local\LTspice\lib\sym\OpAmps\ADA4661-2.asy)
.lib ADA4661-2.lib
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\Hayden\AppData\Local\LTspice\lib\sym\Switches\ADG719.asy)
.lib ADG719.sub
.backanno
.end
